US04294843
A mixture of 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole (2.07 g; 10-2 mol) and 1,2-epoxy-3-phenoxy propane (1.5 g; 10-2 mol) was warmed on a steam bath during 48 hours. The so produced mixture was chromatographed on silica gel, elution with diethyl ether/hexane (1:1) producing 2-hydroxy-1-[2-(1,2,4-oxadiazol-3-yl-methylthio)anilino]-3-phenoxypropane as a colourless oil.

reactant | 3-(2-aminophenylthiomethyl)1,2,4-oxadiazole | 10-2 mol, 2.07 g | NC1=C(C=CC=C1)SCC1=NOC=N1 | C9H9N3OS
reactant | 1,2-epoxy-3-phenoxy propane | 10-2 mol, 1.5 g | O1CC1COC1=CC=CC=C1 | C9H10O2
product | 2-hydroxy-1-[2-(1,2,4-oxadiazol-3-yl-methylthio)anilino]-3-phenoxypropane | OC(CNC1=C(C=CC=C1)SCC1=NOC=N1)COC1=CC=CC=C1 | C18H19N3O3S
